US04022897
To a solution of 6.6 g of potassium hydroxide (85%) and 0.2 g of potassium iodide in 100 ml of water is added 150 ml of methanol and 19.0 g of 9-hydroxy-2,8-dimethyl-4H-pyrido[ 1,2-a]-pyrimidin-4-one and the whole stirred for about 1 hour. To this is added 20.1 g of cinnamyl bromide dissolved in 20 ml of methanol. The mixture is stirred at room temperature for about 18 hours and then worked up to give 9-[ (cinnamyl)oxy] -2,8-dimethyl-4H-pyrido[ 1,2-a] pyrimidin-4-one.

reactant | potassium hydroxide | 6.6 g | [OH-].[K+]
reactant | potassium iodide | 0.2 g | [I-].[K+]
reactant | 9-hydroxy-2,8-dimethyl-4H-pyrido[ 1,2-a]-pyrimidin-4-one | 19.0 g | OC1=C(C=CN2C1=NC(=CC2=O)C)C | C10H10N2O2
reactant | cinnamyl bromide | 20.1 g | C(C=CC1=CC=CC=C1)Br | C9H9Br
solvent | water | 100 ml | O | H2O
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 150 ml | CO | CH4O
product | 9-[ (cinnamyl)oxy] -2,8-dimethyl-4H-pyrido[ 1,2-a] pyrimidin-4-one | C(C=CC1=CC=CC=C1)OC1=C(C=CN2C1=NC(=CC2=O)C)C | C19H18N2O2
